US08859774B2
A solution of (R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone (100 mg, 0.182 mmol) and pyrrolidine (37.9 μl, 0.455 mmol) in acetonitrile (2 mL) was stirred in a sealed vial at 40° C. for 1 hour. The cooled reaction mixture was then purified directly by preparative HPLC (Waters, Acidic (0.1% Formic acid), Waters X-Select Prep-C18, 5 μm, 19×50 mm column, 5-95% acetonitrile in water) to afford (R)-(1-(4-fluorophenyl)-6-((6-(pyrrolidin-1-yl)pyridin-3-yl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone as a white solid (29 mg). LCMS (Method F, ES-API): RT 2.48 min, m+H=585.3; 1H NMR (400 MHz, CDCl3): δ 8.63-8.61 (1H, m), 8.43 (1H, d, J=2.4 Hz), 7.89-7.87 (1H, m), 7.80 (1H, dt, J=7.6, 1.8 Hz), 7.58 (1H, dd, J=9.0, 2.4 Hz), 7.45-7.41 (3H, m), 7.28 (1H, s), 7.19-7.13 (2H, m), 6.47 (1H, d, J=2.1 Hz), 6.22 (1H, d, J=9.0 Hz), 5.46 (1H, dd, J=12.2, 2.1 Hz), 4.27 (1H, d, J=16.9 Hz), 3.83-3.79 (1H, m), 3.52-3.45 (4H, m), 2.90-2.76 (2H, m), 2.68 (1H, d, J=12.3 Hz), 2.51-2.45 (2H, m), 2.06-2.04 (4H, m).

reactant | (R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | 0.182 mmol, 100 mg | ClC1=CC=C(C=N1)S(=O)(=O)N1C[C@]2(CC3=C(C=C2CC1)N(N=C3)C3=CC=C(C=C3)F)C(=O)C3=NC=CC=C3 | C27H21ClFN5O3S
reactant | pyrrolidine | 0.455 mmol, 37.9 μl | N1CCCC1 | C4H9N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (R)-(1-(4-fluorophenyl)-6-((6-(pyrrolidin-1-yl)pyridin-3-yl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | 29 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C2=NC=CC=C2)S(=O)(=O)C=2C=NC(=CC2)N2CCCC2 | C31H29FN6O3S
